US06350771B1
To a solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile (0.5 g) in acetonitrile was added 2-bromoacetamide (0.18 g) in water and calcium carbonate (0.13 g). The mixture was heated under reflux for 1.5 hours, cooled to 25° C. and a solution of sodium hydroxide (0.05 g) in water added. This was then heated under reflux for one hour, evaporated and the residue purified by preparative thin-layer chromatography eluting first with 20% methanol in dichloromethane to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-5-[(aminocarbonylmethyl)amino]-1H-pyrazole-3-carbonitrile (0.089 g), m.p. 155-157° C.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 0.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
reactant | 2-bromoacetamide | 0.18 g | BrCC(=O)N | C2H4BrNO
reactant | sodium hydroxide | 0.05 g | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | calcium carbonate | 0.13 g | C([O-])([O-])=O.[Ca+2]
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-5-[(aminocarbonylmethyl)amino]-1H-pyrazole-3-carbonitrile | 0.089 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCC(=O)N)S(=O)C)C#N | C14H10Cl2F3N5O2S
